US07816354B2
3-(morpholin-4-ylmethyl-benzyl)-5-(R)-phenyl-oxazolidin-2-one
A solution of 3-(4-bromomethyl-benzyl)-5-(R)-phenyl-oxazolidin-2-one (30 mg, 0.086 mmol) and morpholine (0.038 mL, 0.433 mmol) in acetonitrile (2 mL) was heated at 70° C. for 4 hours. The reaction mixture was diluted with ethyl acetate (6 mL), washed with water (4 mL), brine (4 mL), dried over anhydrous sodium sulfate and concentrated to get the product. It was purified by chromatography on silica gel, eluting with 30-60% ethyl acetate in hexanes, to yield the title compound as a white solid (21 mg, 69%).

reactant | 3-(4-bromomethyl-benzyl)-5-(R)-phenyl-oxazolidin-2-one | 0.086 mmol, 30 mg | BrCC1=CC=C(CN2C(O[C@@H](C2)C2=CC=CC=C2)=O)C=C1 | C17H16BrNO2
reactant | morpholine | 0.433 mmol, 0.038 mL | N1CCOCC1 | C4H9NO
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
product | 3-(morpholin-4-ylmethyl-benzyl)-5-(R)-phenyl-oxazolidin-2-one | 21 mg, 69% | N1(CCOCC1)CC(C1=CC=CC=C1)N1C(O[C@@H](C1)C1=CC=CC=C1)=O | C21H24N2O3
